US08835470B2
2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-Va, 30 mg, 0.070 mmol), 2-amino-2-methylpropanenitrile-HCl (12.58 mg, 0.104 mmol) [Ingate, S. T. et al., Tetrahedron, 53:17795-17814 (1997)], HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (28.1 mg, 0.278 mmol) were dissolved in DMF (1 mL). After stirring 1 h, the mixture was purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 40-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to provide single enantiomer N-(2-cyanopropan-2-yl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (3.7 mg, 0.007 mmol, 10.7% yield): LCMS=498.0 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.13-8.19 (2 H, m), 7.49-7.70 (7 H, m), 5.13 (1 H, s), 1.71 (3 H, s), 1.67 (3 H, s); HPLC peak RT=2.9 min (Method E).

reactant | 2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 2-amino-2-methylpropanenitrile-HCl | 0.104 mmol, 12.58 mg | Cl.NC(C#N)(C)C
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(2-cyanopropan-2-yl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.007 mmol, 3.7 mg, 10.7% yield | C(#N)C(C)(C)NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C24H18F3N5O4
